US06919331B2
To a cooled (0° C.) solution of [5-aminomethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-yl]-methanol (558 mg, 1.74 mmol) and DIPEA (667 μL, 3.83 mmol) in DMF (6 mL) was added Boc2O (342 mg, 1.57 mmol) in one portion. After stirring at the same temperature for 20 min. the volatiles were removed in vacuo. Water was added to the residue and the product extracted into ethyl acetate (2×15 mL). The combined organic extracts were washed with water, brine and dried over MgSO4 and concentrated. The residue was purified by flash column chromatography (eluent 5% MeOH in CH2Cl2) to give [2-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (430 mg, 71%) as a white solid.

reactant | [5-aminomethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-yl]-methanol | 1.74 mmol, 558 mg | NCC1=CC2=C(N(C(=N2)CO)CCC(C)C)C=C1 | C14H21N3O
reactant | DIPEA | 3.83 mmol, 667 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 1.57 mmol, 342 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | [2-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 430 mg, 71% | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CO)CCC(C)C)C=C1)=O | C19H29N3O3
